US05057505
4.36 g (10 mmol) of 1-(benzothiazol-2-ylamino)methane-1,1-diphosphonic acid tetraethyl ester are heated in 40 ml of N hydrochloric acid at 110°-120° for 6 hours. In the course of the reaction, the product separates out in the form of a white precipitate. After cooling to room temperature, filtration is carried out and the product is washed with aqueous methanol. 3.09 g (95% of the theoretical yield) of 1-(benzothiazol-2-yl-amino)methane-1,1-diphosphonic acid of m.p. 290° (decomposition) are obtained.

reactant | 1-(benzothiazol-2-ylamino)methane-1,1-diphosphonic acid tetraethyl ester | 10 mmol, 4.36 g | C(C)OP(OCC)(=O)C(P(OCC)(=O)OCC)NC=1SC2=C(N1)C=CC=C2 | C16H26N2O6P2S
reactant | hydrochloric acid | Cl | ClH
product | 1-(benzothiazol-2-yl-amino)methane-1,1-diphosphonic acid | S1C(=NC2=C1C=CC=C2)NC(P(O)(=O)O)P(O)(=O)O | C8H10N2O6P2S
